US08048887B2
2-(4-Fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid
NaOH (500 μL, 0.500 mmol, 1M aq.) was added to a stirring solution of ethyl 2-(4-fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylate (50 mg, 0.080 mmol) in ethanol (795 μL) at 60° C. The slurry was allowed to stir overnight. DMF (2 mL) was added along with additional portion of NaOH and the mixture was warmed to 70° C. and allowed to stir overnight. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the titled compound (49 mg, quant). LC-MS retention time: 2.36 min; m/z (MH+): 601. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | NaOH | 0.500 mmol, 1M, 500 μL | [OH-].[Na+]
reactant | ethyl 2-(4-fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylate | 0.080 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)N(S(=O)(=O)C)C)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C35H33FN2O6S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 795 μL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid | 49 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)N(S(=O)(=O)C)C)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C33H29FN2O6S
